US05728845
3-Phthalimido-3-(3,4-diethoxyphenyl)propionitrile.
To an ice bath cooled stirred suspension of 3-phthalimido-3-(3,4-diethoxyphenyl)propionamide (0.96 g, 2.5 mmol) and 4-methylmorpholine (0.66 mL, 6 mmol) in DMF (9 mL) under nitrogen, was added thionyl chloride (0.35 mL, 4.8 mmol) dropwise. There was a slight exotherm after which the mixture was stirred at 0°-5° C. for 30 minutes and at room temperature for 2 hours. The reaction was monitored by HPLC (Waters Nova-Pak/C-18 column, 3.9×150 mm, 4 micron, 1 mL/min, 240 nm, 50/50 CH3CN/H3PO4 0.1% (aq)). The reaction mixture was poured into a mixture of NaHCO3 (8.5 mL) and ice (40 g) and stirred until the ice had melted. The mixture was filtered and the solid was washed with copious amounts of H2O. The wet solid was dissolved in CH2Cl2 (25 mL) and the organic layer was separated and dried over MgSO4 and concentrated in vacuo to a sticky semi-solid. The solid was purified twice by flash column chromatography (silica gel, 3 % ethyl acetate/methylene chloride) to afford a solid which was dried in vacuo (50° C., <1 mm) to afford 0.5 g (55%) of product as a pale yellow solid; 1H NMR (CDCl3) δ7.91-7.65(m, 4H), 7.12-6.98(m, 2H), 6.90-6.78(m, 1H), 5.61(dd, J=6.4, 10.3 Hz, 1H), 4.19-3.96(m, 4H), 3.83(dd, J=10.3, 16.8 Hz, 1H), 3.26(dd, J=6.4, 16.8 Hz, 1H), 1.55-1.30(m, 6H); 13C NMR (CDCl3)δ167.7, 149.2, 148.9, 134.3, 131.5, 129.1, 123.6, 120.2, 116.9, 113.2, 112.9, 64.7, 64.5, 51.1, 21.1, 14.7; HPLC 98.4%. Anal. Calcd for C21H20N2 O4. Theoretical: C, 69.22; H,5.53; N,7.69. Found: C, 69.06; H, 5.48; N, 7.58.

reactant | 3-phthalimido-3-(3,4-diethoxyphenyl)propionamide | 2.5 mmol, 0.96 g | C1(C=2C(C(N1C(CC(=O)N)C1=CC(=C(C=C1)OCC)OCC)=O)=CC=CC2)=O | C21H22N2O5
reactant | 4-methylmorpholine | 6 mmol, 0.66 mL | CN1CCOCC1 | C5H11NO
reactant | thionyl chloride | 4.8 mmol, 0.35 mL | S(=O)(Cl)Cl | Cl2OS
reactant | CH3CN H3PO4 | CC#N.OP(=O)(O)O
reactant | NaHCO3 | 8.5 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 3-Phthalimido-3-(3,4-diethoxyphenyl)propionitrile | 0.5 g, 55% | C1(C=2C(C(N1C(CC#N)C1=CC(=C(C=C1)OCC)OCC)=O)=CC=CC2)=O | C21H20N2O4
